US09079866B2
5-[3-Fluoro-2′-(pyrazin-2-ylsulfanyl)biphenyl-4-yl]pyrazin-2-amine hydrochloride
The title compound was prepared using analogous conditions to those described in Example 213 utilizing 4′-(5-aminopyrazin-2-yl)-3′-fluoro-[1,1′-biphenyl]-2-thiol and 2-chloropyrazine. MS (ESI): mass calcd. for C20H14FN5S, 375.10; m/z found, 375.9 [M+H]+. 1H NMR (400 MHz, CD3OD) δ 8.26-8.24 (m, 3H), 8.18 (d, J=2.6, 1H), 8.08 (d, J=1.4, 1H), 7.84 (m, 1H), 7.77-7.69 (m, 1H), 7.64-7.55 (m, 1H), 7.55-7.46 (m, 2H), 7.27-7.14 (m, 2H).

reactant | 4′-(5-aminopyrazin-2-yl)-3′-fluoro-[1,1′-biphenyl]-2-thiol | NC=1N=CC(=NC1)C1=C(C=C(C=C1)C=1C(=CC=CC1)S)F | C16H12FN3S
reactant | 2-chloropyrazine | ClC1=NC=CN=C1 | C4H3ClN2
product | 5-[3-Fluoro-2′-(pyrazin-2-ylsulfanyl)biphenyl-4-yl]pyrazin-2-amine hydrochloride | Cl.FC=1C=C(C=CC1C=1N=CC(=NC1)N)C1=C(C=CC=C1)SC1=NC=CN=C1 | InChI=1S/C20H14FN5S.ClH/c21-16-9-13(5-6-15(16)17-10-26-19(22)11-25-17)14-3-1-2-4-18(14)27-20-12-23-7-8-24-20;/h1-12H,(H2,22,26);1H
